US06340699B1
Preparation of ((3-(2-Amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-methyl-1H-indol-4-yl)oxy)acetic acid, morpholinylethyl ester
In a flask containing 10 ml of dimethylformamide is added with stirring 133 mg. of 4-(2-chloroethyl)morpholine hydrochloride (available from Aldrich Chemical Co., Milwaukee, Wis. USA, Item No. C4,220-3) and 231 mg. of CsCO3 and 300 mg. of ((3-(2-amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-ethyl-1H-indol-4-yl)oxy)acetic acid, sodium salt. The slurry is heated to 60° C. until a solution formed. Heating is continued overnight until reaction is complete. 20 ml of H2O is added to the flask and the organic soluble phase is extracted with three 20 ml. portions of ethyl acetate. The ethyl acetate solution is washed with water and dried over Na2SO4.

reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 4-(2-chloroethyl)morpholine hydrochloride | Cl.ClCCN1CCOCC1
reactant | ((3-(2-amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-ethyl-1H-indol-4-yl)oxy)acetic acid | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC=1C=C(C=CC1)C1=CC=CC=C1)CC)=O | C27H24N2O5
reactant | sodium | [Na] | Na
solvent | H2O | 20 ml | O | H2O
product | ((3-(2-Amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-methyl-1H-indol-4-yl)oxy)acetic acid, morpholinylethyl ester | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)OCCN1CCOCC1)CC=1C=C(C=CC1)C1=CC=CC=C1)C)=O | C32H33N3O6
